US07732460B2
(f) 2-(Hydroxymethyl)-5-mercapto-4(1H)-pyridinol hydrochloride salt
A mixture of {5-[(1,1-dimethylethyl)thio]-4-oxo-1,4-dihydro-2-pyridinyl}methyl acetate (240 mg, 0.94 mmol) and concentrated hydrochloric acid (2 ml) was heated to 80° C. overnight. The solvent was evaporated affording a pale yellow solid.

reactant | {5-[(1,1-dimethylethyl)thio]-4-oxo-1,4-dihydro-2-pyridinyl}methyl acetate | 0.94 mmol, 240 mg | C(C)(=O)OCC=1NC=C(C(C1)=O)SC(C)(C)C | C12H17NO3S
reactant | hydrochloric acid | 2 ml | Cl | ClH
product | 2-(Hydroxymethyl)-5-mercapto-4(1H)-pyridinol hydrochloride salt | Cl.OCC1NC=C(C(=C1)O)S | InChI=1S/C6H9NO2S.ClH/c8-3-4-1-5(9)6(10)2-7-4;/h1-2,4,7-10H,3H2;1H
